US07405210B2
Preparation 91: 4-Methanesulfonylamino-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-amino-1-Boc-piperidine (300 mg, 1.50 mmol) in dichloromethane (2.0 mL) was added a solution of methanesulfonyl chloride (348 μL, 4.49 mmol) in dichloromethane (1 mL) followed by a solution of pyridine (485 μL, 5.99 mmol) in dichloromethane (1 mL), and the reaction stirred at rt for 16 h. Water (10 mL) was added, the mixture separated and the organic layer washed with 1M HCl (10 mL), sodium bicarbonate solution (10 mL) then brine (2×10 mL). The solution was dried (MgSO4) and solvent removed in vacuo. The crude material was purified by chromatography using dichloromethane/methanol (95:5) as the eluent to give the title compound as an off-white powder. δH (CD3OD): 4.46–4.40 (1H, m), 4.09–3.97 (2H, m), 3.53–3.40 (1H, m), 3.0 (3H, s), 2.93–2.81 (2H, m), 2.01–1.93 (2H, m), 1.50–1.37 (2H, m).

reactant | 4-amino-1-Boc-piperidine | 1.50 mmol, 300 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | methanesulfonyl chloride | 4.49 mmol, 348 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 5.99 mmol, 485 μL | N1=CC=CC=C1 | C5H5N
reactant | Water | 10 mL | O | H2O
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-Methanesulfonylamino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C | C11H22N2O4S
